US07932282B2
A solution of 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate (600 mg, 3 mmol) (prepared as described in step (iii) of Example 13, starting from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) and 2-chloro-4-(trifluoromethyl)pyrimidine (547 mg, 3.00 mmol) in 1,4-dioxane (20 ml) was treated with cesium carbonate (1464 mg, 4.49 mmol), Xantphos™ (130 mg, 0.225 mmol) and tris(dibenzylideneacetone)dipalladium(0) (68.6 mg, 0.075 mmol) and the mixture was heated at reflux under argon for 6 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layers were combined, washed with water and brine and evaporated. The residue was purified by silica gel chromatography eluting with 0-100% ethyl acetate in isohexane to give 1,1-dimethylethyl 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylate (506 mg, 49%). LC/MS [M+H]+=347. (ii) A solution of 1,1-dimethylethyl 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylate (506 mg, 1.46 mmol) in TFA/DCM (1:2, 9 ml) was stirred at room temperature for 16 hours. The solution was evaporated and the residue was co-evaporated with toluene and dried to give crude 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylic acid (assume ˜1.5 mmol) which was used in the next step. LC/MS [M+H]+=291.

reactant | 1,1-dimethylethyl 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylate | 1.46 mmol, 506 mg | CN1C(N(CC1C(=O)OC(C)(C)C)C1=NC=CC(=N1)C(F)(F)F)=O | C14H17F3N4O3
solvent | TFA DCM | 9 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylic acid | ˜1.5 mmol | CN1C(N(CC1C(=O)O)C1=NC=CC(=N1)C(F)(F)F)=O | C10H9F3N4O3
